US06515086B1
B. Preparation of 1,3,6,6-Tetramethylfulvene
The synthetic procedure according to Example 1 step A, is followed but the methylcyclopentadiene is replaced by 1,3-dimethylcyclopentadiene.

reactant | methylcyclopentadiene | CC1=CC=CC1 | C6H8
reactant | 1,3-dimethylcyclopentadiene | CC1=CC(=CC1)C | C7H10
product | 1,3,6,6-Tetramethylfulvene | CC1=CC(=CC1=C(C)C)C | C10H14
